US08754054B2
To a solution of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (100 mg, 0.14 mmol) in methanol (3 mL) was added 3-methoxypropan-1-amine (127 mg, 1.43 mmol). The reaction mixture was stirred at room temperature under nitrogen for 2 h. The reaction was quenched by adding saturated ammonium chloride solution (25 mL). Then it was extracted with chloroform (75 mL) and washed with water (2×25 mL). The organic layer was separated, dried (MgSO4), filtered and concentrated to give the crude product. The crude material was purified by preparative TLC (silica gel, 90:10 chloroform/methanol) to afford (6R,6aS,14aR,E)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-9-(3-methoxypropylimino)-3-methyl-7,12,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (53.3 mg, 48.3%) as a dark blue solid: 1H NMR (500 MHz, CDCl3) δ 11.95 (s, 1H), 7.90 (s, 1H), 6.94 (d, J=8.8 Hz, 1H), 6.49 (s, 1H), 6.04 (s, 1H), 5.27 (s, 1H), 5.01-4.98 (m, 1H), 4.73 (d, J=8.6 Hz, 2H), 3.83 (s, 3H), 3.79 (s, 3H), 3.75-3.72 (m, 3H), 3.69-3.68 (m, 1H), 3.62 (s, 4H), 3.46 (t, J=6.1 Hz, 2H), 3.40 (s, 3H), 3.32 (s, 4H), 3.28 (s, 1H), 3.14 (t, J=9.2 Hz, 1H), 2.48 (d, J=4.9 Hz, 1H), 2.37 (s, 3H), 2.07-2.00 (m, 2H), 1.37 (d, J=6.2 Hz, 3H); MS (ESI+) m/z 769 (M+H); HPLC 89.1% (AUC), tR=11.35 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.14 mmol, 100 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | 3-methoxypropan-1-amine | 1.43 mmol, 127 mg | COCCCN | C4H11NO
solvent | methanol | 3 mL | CO | CH4O
product | (6R,6aS,14aR,E)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-9-(3-methoxypropylimino)-3-methyl-7,12,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 53.3 mg, 48.3% | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=C\C(\C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=N/CCCOC)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C38H44N2O15
